US06642389B2
a] [rac]-2-Ethoxy-3-(4-hydroxy-2,3-dihydro-benzofuran-7-yl)-propionic acid ethyl ester
A solution of 3-(4-benzyloxy-benzofuran-7-yl)-2Z-ethoxy-acrylic acid ethyl ester (420 mg, 1.15 mmol) (example 120 c]) in methanol (17 ml) was hydrogenated over 10% palladium on charcoal (100 mg) at ambient temperature for 20 h. The catalyst was filtered off, the solvent evaporated under reduced pressure and the residue chromatographed (silica gel, hexane/AcOEt=4/1) to give 240 mg (0.86 mmol, 75%) of the title compound as colorless liquid.

reactant | 3-(4-benzyloxy-benzofuran-7-yl)-2Z-ethoxy-acrylic acid ethyl ester | 1.15 mmol, 420 mg | C(C)OC(/C(=C/C1=CC=C(C=2C=COC21)OCC2=CC=CC=C2)/OCC)=O | C22H22O5
solvent | methanol | 17 ml | CO | CH4O
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
product | [rac]-2-Ethoxy-3-(4-hydroxy-2,3-dihydro-benzofuran-7-yl)-propionic acid ethyl ester | 0.86 mmol, 240 mg, 75% | C(C)OC(C(CC1=CC=C(C=2CCOC21)O)OCC)=O | C15H20O5
